US05494928
A suspension of 0.75 g of 5-fluoro-6-trifluoromethylindole-2-carboxylic acid in 16 ml of diphenyl ether was stirred at 260° for 4 hours and, after cooling to 0°, diluted with 16 ml of tetrahydrofuran. 113 mg of sodium hydride dispersion were added and the mixture was stirred for 1 hour. Subsequently, 0.43 ml of (R)-methyloxirane was added and the reaction mixture was stirred at room temperature for 60 hours. The mixture was extracted with diethyl ether, water and saturated sodium chloride solution and the organic phase was dried over sodium sulfate. The solvent was removed and the residue was chromatographed over 40 g of silica gel with hexane-toluene (1:1) and subsequently with toluene-ethyl acetate (15:1). There was obtained 0.15 g (18.9%) of (R)-1-(5-fluoro-6-trifluoromethyl-indol-1-yl)-propan-2-ol as light brown crystals.

reactant | 5-fluoro-6-trifluoromethylindole-2-carboxylic acid | 0.75 g | FC=1C=C2C=C(NC2=CC1C(F)(F)F)C(=O)O | C10H5F4NO2
reactant | sodium hydride | 113 mg | [H-].[Na+]
reactant | (R)-methyloxirane | 0.43 ml | C[C@H]1OC1 | C3H6O
solvent | diphenyl ether | 16 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | (R)-1-(5-fluoro-6-trifluoromethyl-indol-1-yl)-propan-2-ol | 0.15 g, 18.9% | FC=1C=C2C=CN(C2=CC1C(F)(F)F)C[C@@H](C)O | C12H11F4NO
